US04931581
Preparation of 3,5-diamino-2-ethylthiobenzoic acid ethyl ester
25.9 g (0.0862 mol) of 3,5-dinitro-2-ethylthiobenzoic acid ethyl ester are dissolved in 260 ml of tetrahydrofuran and hydrogenated at 30°-35° C. in the presence of 10 g of Raney nickel. The catalyst is then isolated by filtration, and the residue is taken up in ethyl acetate, dried over magnesium sulfate, filtered and concentrated.

reactant | 3,5-dinitro-2-ethylthiobenzoic acid ethyl ester | 0.0862 mol, 25.9 g | C(C)OC(C1=C(C(=CC(=C1)[N+](=O)[O-])[N+](=O)[O-])CC)=S | C11H12N2O5S
solvent | tetrahydrofuran | 260 ml | O1CCCC1 | C4H8O
catalyst | Raney nickel | 10 g | [Ni] | Ni
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3,5-diamino-2-ethylthiobenzoic acid ethyl ester | C(C)OC(C1=C(C(=CC(=C1)N)N)CC)=S | C11H16N2OS
